US04897490
3,3-Bis(4-fluorophenyl)-2-[2-(1-methylethyl)-2H-tetrazol-5-yl]-2-propenal
The general procedure of Example 21, Steps A, B, C, and D were repeated, except that the ethyl 3,3-bis(4-flurophenyl)-2-[1-(1-methylethyl)-1H-tetrazol-5-yl]-2-propenoate utilized therein was replaced by ethyl 3,3-bis(4-fluorophenyl)-2-[2-(1-methylethyl)-2H-tetrazol-5-yl]-2-propenoate and there was thereby produced in 88% yield the title compound.

reactant | ethyl 3,3-bis(4-flurophenyl)-2-[1-(1-methylethyl)-1H-tetrazol-5-yl]-2-propenoate | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C1=NN=NN1C(C)C)C1=CC=C(C=C1)F | C21H20F2N4O2
reactant | ethyl 3,3-bis(4-fluorophenyl)-2-[2-(1-methylethyl)-2H-tetrazol-5-yl]-2-propenoate | FC1=CC=C(C=C1)C(=C(C(=O)OCC)C=1N=NN(N1)C(C)C)C1=CC=C(C=C1)F | C21H20F2N4O2
product | 3,3-Bis(4-fluorophenyl)-2-[2-(1-methylethyl)-2H-tetrazol-5-yl]-2-propenal | 88% yield | FC1=CC=C(C=C1)C(=C(C=O)C=1N=NN(N1)C(C)C)C1=CC=C(C=C1)F | C19H16F2N4O
